US04826963
Preparation of Ipriflavon-β-cyclodextrin inclusion complex having a molar ratio of 1:2
11.0 g (39.2 mmoles) of Ipriflavon and 114.3 g (88.3 mmoles) of β-cyclodextrin of 12.36% moisture content, were dissolved in 2.25 liters of 50% by volume aqueous ethanol solution at 80° C. under vigorous stirring and left to cool to room temperature. The crystalline product precipitated was filtered and dried for 24 hours at 60° C. to give 96.4 g of product in form of loose, white powder. The particle size is smaller than 90 μm. Ipriflavon content: 10.8% by weight; Ipriflavon: -β-cyclodextrin ratio=1:2; Yield related to the active ingredient: 94.7%.

reactant | Ipriflavon | CC(C)OC=1C=CC2=C(C1)OC=C(C2=O)C=3C=CC=CC3 | C18H16O3
reactant | β-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
product | Ipriflavon β-cyclodextrin | CC(C)OC=1C=CC2=C(C1)OC=C(C2=O)C=3C=CC=CC3.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C42H70O35.C18H16O3/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-12(2)21-14-8-9-15-17(10-14)20-11-16(18(15)19)13-6-4-3-5-7-13/h8-63H,1-7H2;3-12H,1-2H3/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;/m1./s1
